US06790860B2
In analogy: The reaction of (2S,4R)-2-hydroxymethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester with benzylbromide gave (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine, MS: 466 (MH+).

reactant | (2S,4R)-2-hydroxymethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C29H33NO3S
reactant | benzylbromide | C(C1=CC=CC=C1)Br | C7H7Br
product | (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine | C(C1=CC=CC=C1)OC[C@H]1NC[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H31NOS
